US05015653
A solution of (S)-1-(phenylmethyl)-5-(2-propenyl)-2-pyrrolidinone (44.8 g, 0.208 mol) in 800 mL of 1:1 methanol:methylene chloride was cooled to -78° C. and was ozonized using a Welsbach ozonizer for 6.5 h, approximately 1 h longer than the time required to observe a light blue color of ozone in the solution. Excess ozone was flushed out of the system with oxygen, and the solution was treated with methyl sulfide (80 mL). The solution was then allowed to come to room temperature and to stand overnight. The solvents were removed on a rotary evaporator, and the residual liquid was dissolved in 700 mL of methylene chloride, washed with water, and dried over Na2SO4. Evaporation of the solvent afforded 43.0 g of crude (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidineacetaldehyde. Chromatography on silica gel (1 kg) eluting with 4% methanol in methylene chloride afforded 38 g (84.4% yield) of the pure (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidineacetaldehyde. 1H NMR (CDCl3) δ 1.60-2.60 (m, 4 H, CH2), 2.77 (half of ABX, 1 H, Jgem =18,Jvic =4 Hz, CH2CHO), 3.98 (m, 1 H, NCH), 4.10 and 4.82 (AB, 2 H,Jgem =15 Hz, CH2Ph), 7.15-7.40 (m, 5 H, phenyl), 9.65 (s, 1 H, CHO).

reactant | (S)-1-(phenylmethyl)-5-(2-propenyl)-2-pyrrolidinone | 0.208 mol, 44.8 g | C1(=CC=CC=C1)CN1C(CC[C@H]1CC=C)=O | C14H17NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 800 mL | CO | CH4O
product | (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidineacetaldehyde | 43.0 g | O=C1CC[C@H](N1CC1=CC=CC=C1)CC=O | C13H15NO2
